US05607691
6-Bromohexanoyl chloride (2 g, 9.37 mmol) was added to t-butanol (6.98 g, 93.7 mmol) under an inert atmosphere. The reaction mixture was stirred overnight and then was concentrated in vacuo, dissolved in ethyl acetate (150 ml), washed with saturated aqueous sodium bicarbonate and 10% aqueous citric acid, and dried over magnesium sulfate to yield t-butyl 6-bromohexanoate (2.02 g, 80% yield).

reactant | 6-Bromohexanoyl chloride | 9.37 mmol, 2 g | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | t-butanol | 93.7 mmol, 6.98 g | C(C)(C)(C)O | C4H10O
product | t-butyl 6-bromohexanoate | 2.02 g, 80% yield | BrCCCCCC(=O)OC(C)(C)C | C10H19BrO2
